US04166127
To the mixed solvent of 16 ml of ethanol and 16 ml of dioxane were added 1.8 g of 9-carboxy-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin and 2.0 g of hydrazine hydrate and the resulting mixture was heated under reflux for 8 hours. After the completion of reaction, the solvent was distilled off and 1.8 g of sodium hydroxide and 30 ml of diethylene glycol was added to the residue. The thus obtained mixture was heated under reflux at 190°-200° C. for 5 hours. After cooling, water was added to the mixture which was extracted benzene. The aqueous layer was acidified with hydrochloric acid and extracted with benzene. The extract was washed with water, dried and the solvent was distilled off. The thus obtained residue was chromatographed over silica gel, eluted with chloroform-diethylether (10:1), was obtained 0.5 g of 9carboxy-2-methoxy-10,11-dihydrodibenzo[b,f]thiepin as colorless needles having a melting point of 185°-187° C.

reactant | ethanol | 16 ml | C(C)O | C2H6O
reactant | 9-carboxy-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin | 1.8 g | C(=O)(O)C1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)OC)=O | C16H12O4S
reactant | hydrazine hydrate | 2.0 g | O.NN
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | 9carboxy-2-methoxy-10,11-dihydrodibenzo[b,f]thiepin | 0.5 g | C(=O)(O)C1=CC=CC2=C1CCC1=C(S2)C=CC(=C1)OC | C16H14O3S
